US05580875
1-[4-[3-[4-(6-Fluoro-1H-indazol-3-yl)-1-piperidinyl]propoxyl-3-methoxyphenyl-ethanone
A stirred mixture of 6-fluoro-3-(4-piperidinyl)-1H-indazole (3.5 g, 16 mmol), K2CO3 (2.2 g), 1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone (3.8 g, 16 mmol) and acetonitrile (90 ml) was refluxed for 16 hours. The reaction was poured into water and the resulting white solid, which precipitated from solution, was collected to afford 5.5 g of the desired product. The compound was recrystallized from dimethylformamide (twice) to afford 3.0 g (44%) of 1-[4-[3-[4-(6-fluoro-1H-indazol-3-yl)-1-piperidinyl]propoxy]-methoxyphenyl]ethanone as a white solid, m.p.=202°-204° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1H-indazole | 16 mmol, 3.5 g | FC1=CC=C2C(=NNC2=C1)C1CCNCC1 | C12H14FN3
reactant | K2CO3 | 2.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone | 16 mmol, 3.8 g | ClCCCOC1=C(C=C(C=C1)C(C)=O)OC | C12H15ClO3
reactant | acetonitrile | 90 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 3-[4-(6-Fluoro-1H-indazol-3-yl)-1-piperidinyl]propoxyl-3-methoxyphenyl-ethanone | 5.5 g | FC1=CC=C2C(=NNC2=C1)C1CCN(CC1)CCCOCC(=O)C1=CC(=CC=C1)OC | C24H28FN3O3
